US04148998
To a solution of sodium acetate (0.1 mole) in about 300 ml of glacial acetic acid is added about 0.05 mole of α-sulfo-α-aminoacetic acid hydrochloride. The solution is heated to reflux for 5 minutes, 2,5-dimethoxytetrahydrofuran (1 equivalent based on α-sulfo-α-aminoacetic acid hydrochloride) is added as quickly as possible, and the solution refluxed for an additional 2 minutes. The acetic acid is flash evaporated leaving a residue which is taken up in ethylacetate. The ethyl acetate is filtered, dried and evaporated to give α-sulfo-α-(1-pyrryl) acetic acid.

reactant | sodium acetate | 0.1 mole | C(C)(=O)[O-].[Na+]
reactant | α-sulfo-α-aminoacetic acid hydrochloride | about 0.05 mole | Cl.S(=O)(=O)(O)C(C(=O)O)N
reactant | 2,5-dimethoxytetrahydrofuran | 1 equivalent | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | about 300 ml | C(C)(=O)O | C2H4O2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | α-sulfo-α-(1-pyrryl) acetic acid | S(=O)(=O)(O)C(C(=O)O)N1C=CC=C1 | C6H7NO5S
